US08013156B2
1-(4-Chloro-[1,2,5]thiadiazol-3-yl)-3,5-dimethyl-piperazine (7.9 g, 34 mmol), pyridinyl-methanol (7.7 g, 70 mmol), potassium tert-butyl butoxide (11.4 g, 101 mmol) and tert-butyl alcohol (100 mL) were combined and stirred at room temperature overnight. The reaction mixture is diluted with H2O (3×) and extracted with EtOAc (3×). The combined EtOAc extractions are washed with sat'd NaHCO3 (3×), sat'd NaCl (1×), dried (Na2SO4), and concentrated in vacuo. The crude product is purified by column chromatography (1:1 hexanes:EtOAc, followed by 49:1 EtOAc:triethylamine, followed by 18:1:1 EtOAc:MeOH:triethylamine) to give 4.15 g (40%) of 3,5-dimethyl-1-[4-(pyridin-4-ylmethoxy)-[1,2,5]thiadiazol-3-yl]-piperazine. 1H NMR (CDCl3) 8.62 (d, 2H), 7.30 (d, 2H), 5.48 (s, 2H), 4.07 (m, 2H), 3.03 (m, 2H), 2.51 (m, 2H), 1.12 (d, 6H) ppm. LC-MS (MH+)=306.

reactant | 1-(4-Chloro-[1,2,5]thiadiazol-3-yl)-3,5-dimethyl-piperazine | 34 mmol, 7.9 g | ClC=1C(=NSN1)N1CC(NC(C1)C)C | C8H13ClN4S
reactant | pyridinyl-methanol | 70 mmol, 7.7 g | N1=C(C=CC=C1)CO | C6H7NO
reactant | potassium tert-butyl butoxide | 101 mmol, 11.4 g | C(C)(C)(C)C([O-])CCC.[K+]
reactant | tert-butyl alcohol | 100 mL | C(C)(C)(C)O | C4H10O
solvent | H2O | O | H2O
product | 3,5-dimethyl-1-[4-(pyridin-4-ylmethoxy)-[1,2,5]thiadiazol-3-yl]-piperazine | 4.15 g, 40% | CC1CN(CC(N1)C)C1=NSN=C1OCC1=CC=NC=C1 | C14H19N5OS
